US06995263B2
A mixture of 25 g (90 mmol) of the above prepared [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetonitrile, 20 g of sodium hydroxide (500 mmol), 60 ml of water and 250 ml of propanol was stirred vigorously at 100° C. Hydrolysis was complete after 2 hours. The reaction mixture was then evaporated to dryness and the residue was dissolved in 70 ml of water; then, 60 ml of cold 8 N aqueous HCl were added and the compound was extracted with three portions of 250 ml of ethyl acetate; the combined organic phases were washed with water and brine, dried with anhydrous sodium sulfate and evaporated. 25.1 g (93.9%) of [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid were obtained as a pale yellow solid.

reactant | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetonitrile | CC1=NC(=CC=C1CC#N)C1=CC=C(C=C1)C(F)(F)F | C15H11F3N2
reactant | sodium hydroxide | 500 mmol, 20 g | [OH-].[Na+]
reactant | water | 60 ml | O | H2O
solvent | propanol | 250 ml | C(CC)O | C3H8O
product | [2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid | 25.1 g, 93.9% | CC1=NC(=CC=C1CC(=O)O)C1=CC=C(C=C1)C(F)(F)F | C15H12F3NO2
